US06573263B2
Methyl-2-acetyl-5-phenylpentanoate
85 g (616 mmol) of sodium (2E)-4-methoxy-4-oxo-2-buten-2-olate suspended in 1,3-dimethyltetrahydro-2(1H)-pyrimidone and 3.50 g (21.1 mmol) of potassium iodide are treated dropwise with 129 g (646 mmol) of 1-bromo-3-phenylpropane and the mixture is stirred under reflux at 80° C. for 1 h. The cooled mixture is then added to ice water and extracted with diethyl ether. The ether phase is washed with sodium thiosulphate solution, dried, concentrated and chromatographed. The eluent used is cyclohexane containing an increasing proportion of ethyl acetate.

reactant | sodium (2E)-4-methoxy-4-oxo-2-buten-2-olate | 616 mmol, 85 g | COC(/C=C(\C)/[O-])=O.[Na+]
reactant | potassium iodide | 21.1 mmol, 3.50 g | [I-].[K+]
reactant | 1-bromo-3-phenylpropane | 646 mmol, 129 g | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | 1,3-dimethyltetrahydro-2(1H)-pyrimidone | CN1C(N(CCC1)C)=O | C6H12N2O
product | Methyl-2-acetyl-5-phenylpentanoate | COC(C(CCCC1=CC=CC=C1)C(C)=O)=O | C14H18O3
